US07279478B2
Step 1 (4-Bromophenyl)(cyclohexyl)methanol
To a solution of 1,4-dibromobenzene (42.4 mmol, 10 g) in THF (100 mL) at −78° C. was added dropwise n-BuLi (42.4 mmol, 2 M in hexane). The mixture was stirred at −78° C. for 0.5 h., cyclohexanecarboxaldehyde (42.4 mmol, 4.8 g) was added. The mixture was stirred at −78° C. for 0.5 h and then warmed to r.t. The reaction mixture was diluted with EtOAc, washed with NaHCO3 and brine. The organic extract was dried (anhyd. MgSO4) and concentrated under reduced pressure to give an oil. Chromatography gave the title compound.

reactant | 1,4-dibromobenzene | 42.4 mmol, 10 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-BuLi | 42.4 mmol, 2 M | [Li]CCCC
reactant | cyclohexanecarboxaldehyde | 42.4 mmol, 4.8 g | C1(CCCCC1)C=O | C7H12O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Bromophenyl)(cyclohexyl)methanol | BrC1=CC=C(C=C1)C(O)C1CCCCC1 | C13H17BrO
